US07238701B2
Morpholine (0.03 mL, 26. mg, 0.30 mmol, 1.2 equiv.) was added to a suspension of Methanesulfonic acid 2-{4-[3-chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-7-yl}-ethyl ester (135 mg, 0.25 mmol, 1 quiv.) and DIEA (0.09 mL, 0.5 mmol, 2 equiv.) in anhydrous acetonitrile (2.0 mL). The resulting mixture was stirred overnight at 80° C. at which time TLC (MeOH/DCM 5:95) indicated no more starting material left. The solvents were evaporated and residue was purified by preparative TLC (20 cm×20 cm×1 mm silica, MeOH/DCM 5:95) to give [3-Chloro-4-(pyridin-2-ylmethoxy)-phenyl]-[7-(2-morpholin-4-yl-ethyl)-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-4-yl]-amine as a white solid (16 mg, 12%). 1H-NMR (CD3OD) δ 8.51 (s, 1H), 8.24 (s, 1H), 7.87 (t, 1H), 7.81 (d, J=2.4 Hz, 1H) 7.68 (d, J=7.5 Hz, 1H), 7.36 (m, 2H), 7.02 (d, J=9.2 Hz, 1H), 5.18 (s, 2H), 2.69 (t, 4H), 3.35 (s, 1H), 3.11 (m, 1H), 3.02 (m, 1H), 2.91 (m, 1H), 2.48 (m, 6H), 2.09 (m, 1H), 1.89 (m, 1H), 1.62 (m, 3H).; LCMS RT=2.25 min; [M+H]+=536.

reactant | Morpholine | 0.30 mmol, 0.03 mL, 1.2 equiv. | N1CCOCC1 | C4H9NO
reactant | Methanesulfonic acid 2-{4-[3-chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-7-yl}-ethyl ester | 0.25 mmol, 135 mg | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC=1C2=C(N=CN1)SC1=C2CCC(C1)CCOS(=O)(=O)C | C25H25ClN4O4S2
reactant | DIEA | 0.5 mmol, 0.09 mL, 2 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
product | [3-Chloro-4-(pyridin-2-ylmethoxy)-phenyl]-[7-(2-morpholin-4-yl-ethyl)-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-4-yl]-amine | 16 mg, 12% | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC=1C2=C(N=CN1)SC1=C2CCC(C1)CCN1CCOCC1 | C28H30ClN5O2S
